US04232032
A mixture of 6-acetyl-2,4-bis(trichloromethylbenzo[1,3]dioxin (2.0 g.) and 100% hydrazine hydrate (0.25 g.) in absolute ethanol (25 ml.) was heated under reflux for 16 hours, and cooled to give 6-acetyl-2,4-bis(trichloromethyl)benzo[1,3]dioxin hydrazone, m.p. 159° C.

reactant | trichloromethylbenzo[1,3]dioxin | 2.0 g | ClC(Cl)(Cl)C1OC2=C(CO1)C=CC=C2 | C9H7Cl3O2
reactant | hydrazine hydrate | 0.25 g | O.NN
reactant | ethanol | 25 ml | C(C)O | C2H6O
product | 6-acetyl-2,4-bis(trichloromethyl)benzo[1,3]dioxin hydrazone | C(C)(C=1C=CC2=C(C(OC(O2)C(Cl)(Cl)Cl)C(Cl)(Cl)Cl)C1)=NN | C12H10Cl6N2O2
